US05712300
Preparation of N-Benzyloxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide
CDI (57.0 mg, 0.352 mmol) is added to a solution of 3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetic acid (113 mg, 0.340 mmol) and CH2Cl2 (2.5 mL). The solution is stirred for 1 hour at room temperature and then O-benzyl hydroxylaminehydrochloride (67.0 mg, 0.420 mmol) and N-methylmorpholine (46 μL, 0.42 mmol) are added. The solution is stirred for 60 hours at room temperature. Basic workup (CH2Cl2, NaHCO3, MgSO4) and purification by flash chromatography (1:1 hexane:EtOAc) provides 94.8 mg (64%) of the title compound as a white solid.

reactant | CDI | 0.352 mmol, 57.0 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetic acid | 0.340 mmol, 113 mg | CN1C(N(C(C1(CC(=O)O)CC(C)C)=O)CCC1=CC=CC=C1)=O | C18H24N2O4
reactant | O-benzyl hydroxylaminehydrochloride | 0.420 mmol, 67.0 mg | Cl.C(C1=CC=CC=C1)ON
reactant | N-methylmorpholine | 0.42 mmol, 46 μL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | N-Benzyloxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide | 94.8 mg, 64% | C(C1=CC=CC=C1)ONC(CC1(N(C(N(C1=O)CCC1=CC=CC=C1)=O)C)CC(C)C)=O | C25H31N3O4
